US08629137B2
Tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-methyl-carbamate
Under an argon atmosphere 13 mg (0.96 mmol) tert-butyl methyl-carbamate, 11 mg (0.019 mmol) Xantphos, 8.8 mg (0.010 mmol) Pd2 dba3 and 47 mg (0.15 mmol) caesium carbonate were added to 50 mg (0.10 mmol) 1-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one in 1.00 mL dioxane and the mixture was refluxed for 15 h with stirring. The reaction mixture was evaporated down i. vac. and the residue obtained was used in the next step without further purification.

reactant | tert-butyl methyl-carbamate | 0.96 mmol, 13 mg | CNC(OC(C)(C)C)=O | C6H13NO2
reactant | Xantphos | 0.019 mmol, 11 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | caesium carbonate | 0.15 mmol, 47 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-[6′-chloro-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 0.10 mmol, 50 mg | ClC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C26H23ClN6O4
solvent | dioxane | 1.00 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.010 mmol, 8.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Tert-butyl[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-4-(2-oxo-2,3-dihydro-imidazo[4,5-b]pyridin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-6′-yl]-methyl-carbamate | C(C)(C)(C)OC(N(C)C1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C)=O | C32H35N7O6
